* Ideal diode model

.SUBCKT id_diode anode cathode
+PARAMS: R_ON=1e-4 VD_ON=0

* Snubber
V_SNB anode mid_snb 0
R_SNB mid_snb cathode 1e5

* Convergence
R_conv anode 0 1e8

SW_DIODE anode mid_node IDDIODE OFF CONTROL={IF(I(V_SNB) > 0, 1, 0)}
*B_DROP mid_node cathode V={IF(V(anode)-V(cathode)<VD_ON, V(anode)-V(cathode), VD_ON)} smoothbsrc=1
*+ rcconst = {GLOBAL_TS*1e-9}

V_DROP mid_node cathode 0

.MODEL IDDIODE VSWITCH RON={IF(R_ON<1e-5,1e-5,R_ON)} ROFF=1e5 ON=0.99 OFF=0.01

.ENDS id_diode
